US07772271B2
2-(4-Aminophenyl)-1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile (40 mg, 0.12 mmol), prepared as in example 1CM, step B, is combined with 4-nitrophenyl chloroformate (60 mg, 0.30 mmol), DCE (0.4 mL), and pyridine (25 μL, 0.31 mmol). This suspension is stirred at room temperature for 1 h. 2-(2-methoxyethoxy)ethanol (150 μL, 1.25 mmol) is added. This mixture is heated at 80° C. overnight. The reaction mixture is then diluted in CH2Cl2 and is washed with dilute aqueous NaOH to remove the yellow nitrophenol by-product. The organic layer is dried and concentrated. Purification by silica gel chromatography (CH2Cl2) yields [4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indol-2-yl)-phenyl]-carbamic acid 2-(2-methoxy-ethoxy)-ethyl ester (51 mg, 89%) as a white solid.

reactant | 2-(4-Aminophenyl)-1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile | 0.12 mmol, 40 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCC)C1CCC1 | C21H21N3O
reactant | 4-nitrophenyl chloroformate | 0.30 mmol, 60 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 0.31 mmol, 25 μL | N1=CC=CC=C1 | C5H5N
reactant | 2-(2-methoxyethoxy)ethanol | 1.25 mmol, 150 μL | COCCOCCO | C5H12O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DCE | 0.4 mL | ClCCCl | C2H4Cl2
product | [4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indol-2-yl)-phenyl]-carbamic acid 2-(2-methoxy-ethoxy)-ethyl ester | 51 mg, 89% | COCCOCCOC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCC)C1CCC1)=O | C27H31N3O5
